US07049307B2
6-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole
6-Nitroindazole (2.00 g, 12.3 mmol) was treated with potassium carbonate (5.00 g 36.2 mmol) in N,N-dimethylformamide (40 mL) for 30 minutes and then 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (3.20 g 18.8 mmol) was added. The reaction mixture was heated to 60° C. for 6 hours, then cooled to room temperature. The reaction mixture was filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated in vacuo and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to afford the title compound. 1H NMR (300 MHz, DMSO-d6) ppm 1.65 (m, 4H) 2.48 (m, 4H), 3.00 (t, 2H, J=6.44), 4.64 (t, 2H, J=6.44), 7.80 (m, 1H), 7.97 (m, 1H), 8.62 (s, 1H), 8.68 (s, 1H); MS (DCI/NH3) m/z 261 [M+H]+.

reactant | 6-Nitroindazole | 12.3 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | potassium carbonate | 36.2 mmol, 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 18.8 mmol, 3.20 g | Cl.ClCCN1CCCC1
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 6-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole | [N+](=O)([O-])C=1C=CC2=CN(N=C2C1)CCN1CCCC1 | C13H16N4O2
